US06436951B1
3.a. ethyl 4-methyl-2-oxo-1,2-dihydro-3-quinolinecarboxylate
A solution of ethylmalonyl chloride (12.9 ml, 100 mmol) in anhydrous acetonitrile (30 ml) is added dropwise to a solution of 2-aminoacetophenone (10.5 g, 78 mmol) and triethylamine (13.9 ml, 100 mmol) in anhydrous acetonitrile (110 ml), under argon and at 0° C. The reaction medium is heated up to ambient temperature then treated dropwise and under argon with a solution of sodium ethylate (obtained with 1.8 g, 78 mmol, of sodium in 80 ml of ethanol), then left under agitation for 12 hours at ambient temperature. The reaction mixture is then poured into ice cold water (100 ml) and agitated for two hours, then filtered. The precipitate collected in this way is washed with water, with ethanol and with ether in order to produce 15.2 g (84%) of a white solid.

reactant | ethylmalonyl chloride | 100 mmol, 12.9 ml | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | 2-aminoacetophenone | 78 mmol, 10.5 g | NCC(=O)C1=CC=CC=C1 | C8H9NO
reactant | triethylamine | 100 mmol, 13.9 ml | C(C)N(CC)CC | C6H15N
reactant | sodium ethylate | 78 mmol, 80 ml, 1.8 g | CC[O-].[Na+]
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
reactant | acetonitrile | 110 ml | C(C)#N | C2H3N
product | ethyl 4-methyl-2-oxo-1,2-dihydro-3-quinolinecarboxylate | 15.2 g, 84% | CC1=C(C(NC2=CC=CC=C12)=O)C(=O)OCC | C13H13NO3
